US07399759B2
tert-Butyl 3-[2-(methylsulfinyl)-6-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propanoate
tert-Butyl 3-[2-(methylthio)-6-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propanoate (0.22 g, 0.53 mmol) was dissolved in chloroform (50 ml), and a solution of 3-chloroperbenzoic acid (77%, 0.12 g, 0.53 mmol) in chloroform (10 ml) was added dropwise thereto. The mixture was stirred at room temperature for 1 hr. The solvent was evaporated, and the residue was recrystallized from hexane-ethyl acetate to give the titled compound (0.17 g, 86%) as white crystals.

reactant | tert-Butyl 3-[2-(methylthio)-6-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propanoate | 0.53 mmol, 0.22 g | CSC1=NC(=CC(=C1)CCC(=O)OC(C)(C)C)C=1SC2=C(C(N1)=O)C=CC=C2 | C21H22N2O3S2
reactant | 3-chloroperbenzoic acid | 0.53 mmol, 0.12 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | tert-Butyl 3-[2-(methylsulfinyl)-6-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propanoate | 0.17 g, 86% | CS(=O)C1=NC(=CC(=C1)CCC(=O)OC(C)(C)C)C=1SC2=C(C(N1)=O)C=CC=C2 | C21H22N2O4S2
